US05681940
Preparation of 1'-cyano-3'-t-butyldimethylsilyl-5'-(4,4'-dimethoxytrityl)thymidine.
1'-Cyano-5'-(4,4'-dimethoxytrityl)thymidine in anhydrous pyridine is added to a stirred solution of t-butyldimethylchlorosilane (1.5 equivalents) and imidazole (3.0 equivalents) in anhydrous pyridine at 0° C. The resulting reaction mixture is stirred at room temperature overnight. Pyridine is evaporated and the residue dissolved in ethyl acetate, washed with brine. The crude product is directly used for the next reaction.

reactant | 1'-Cyano-5'-(4,4'-dimethoxytrityl)thymidine | C(#N)[C@@]1(C[C@H](O)[C@@H](C(O)C(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)O1)N1C(=O)NC(=O)C(C)=C1 | C32H31N3O7
reactant | t-butyldimethylchlorosilane | 1.5 equivalents | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 3.0 equivalents | N1C=NC=C1 | C3H4N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1'-cyano-3'-t-butyldimethylsilyl-5'-(4,4'-dimethoxytrityl)thymidine | C(#N)[C@@]1(C[C@](O)([C@@H](C(O)C(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)C2=CC=CC=C2)O1)[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C(C)=C1 | C38H45N3O7Si
